US03963783
A solution of 204 g. of trans-ocimene and 150 g. of sodium acetate in 750 ml. of methylene chloride was stirred for one hour at room temperature, then it was cooled to 0° C. within about 15 min. Then, the addition of a solution of 3 g. of sodium acetate in 315 g. of 42% peracetic acid was started dropwise at a rate adjusted so that the temperature rose to 20°-25°. Without removing the cooling device but by maintaining a suitable rate of addition, the temperature was kept constant until the addition of the peracetic acid was completed. Under these conditions, the addition took one hour. The mixture was stirred for an additional four hours period at room temperature then the solid was removed by filtration and rinsed with methylene chloride. The combined methylene chloride solutions were poured into ice-water, the resulting mixture was shaken vigorously and the organic layer was separated and washed with 125 ml. portions of the following solvents: water (1 fold), saturated Na2CO3 (2 fold), water (1 fold). After the usual drying and concentrating procedure, distillation of the residue gave 205 g. of trans-epoxyocimene (90% yield), b.p. 45°-47°/0.1 Torr. d420 = 0.9082; nD20 = 1.4802.

reactant | trans-ocimene | CC(=CC/C=C(\C)/C=C)C | C10H16
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | trans-epoxyocimene | 90% yield | CC(=CC[C@H]1[C@@](O1)(C)C=C)C | C10H16O
